US09120761B2
(f) tert-Butyl 4-(3-methoxy-4-((4-(2-(2-methoxy-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I21)
A solution of methyl 2-(2-(2-(2-((2-methoxy-4-(piperidin-4-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)phenyl)acetate (I20) (300 mg, 0.567 mmol) and Boc anhydride (247 mg, 1.13 mmol) in DCM (10 mL) was stirred at room temperature under nitrogen for 20 hours. The volatiles were evaporated under reduced pressure to give a brown liquid which was adsorbed onto silica gel. Chromatography (SiO2, 0-15% MeOH/DCM) gave the title compound (I21) (210 mg, 59% yield) as a brown liquid; 1H NMR (400 MHz, CDCl3) δ 8.56 (s, 1H), 8.40 (d, J=8.3 Hz, 1H), 7.95 (s, 1H), 7.31-7.18 (m, 4H), 6.87 (dd, J=8.4, 1.7 Hz, 1H), 6.79 (d, J=1.7 Hz, 1H), 4.28 (d, J=6.5 Hz, 2H), 3.95 (d, J=4.0 Hz, 3H), 3.78 (s, 2H), 3.70 (s, 3H), 3.26-3.02 (m, 4H), 2.84 (t, J=12.2 Hz, 2H), 2.66 (t, J=3.4 Hz, 1H), 1.87 (d, J=12.7 Hz, 2H), 1.66 (dd, J=12.9, 3.4 Hz, 2H), 1.52 (s, 9H). LCMS Method C: rt 7.24 min; m/z 629.2 [M+1]+, 627.0 [M−1]−.

reactant | methyl 2-(2-(2-(2-((2-methoxy-4-(piperidin-4-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)phenyl)acetate | 0.567 mmol, 300 mg | COC1=C(C=CC(=C1)C1CCNCC1)NC1=NC=C(C(=N1)CCC1=C(C=CC=C1)CC(=O)OC)C(F)(F)F | C28H31F3N4O3
reactant | Boc anhydride | 1.13 mmol, 247 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | MeOH DCM | CO.C(Cl)Cl
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 4-(3-methoxy-4-((4-(2-(2-methoxy-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 210 mg, 59% yield | COC=1C=C(C=CC1NC1=NC=C(C(=N1)CCC1=C(C=CC=C1)CC(=O)OC)C(F)(F)F)C1CCN(CC1)C(=O)OC(C)(C)C | C33H39F3N4O5
